US06211234B1
A stirred solution of glutaric anhydride (22.82 g) in dry tetrahydrofuran (300 mL) at −78° C. is treated with a solution of 2-methylphenyl magnesium chloride in tetrahydrofuran (200 mL, 0.1 M) over 45 minutes. The mixture is stirred at −78° C. for 2.5 hours and the grey suspension is poured into 1 N hydrochloric acid (300 mL). The mixture is extracted with ethyl acetate (300 mL). The organic phase is dried over magnesium sulphate and evaporated to give 5-oxo-5-(2-methylphenyl)pentanoic acid (36.74 g) as a red-brown oil.

reactant | glutaric anhydride | 22.82 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 2-methylphenyl magnesium chloride | CC1=C(C=CC=C1)[Mg]Cl
reactant | hydrochloric acid | 1 N, 300 mL | Cl | ClH
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.1 M, 200 mL | O1CCCC1 | C4H8O
product | 5-oxo-5-(2-methylphenyl)pentanoic acid | 36.74 g | O=C(CCCC(=O)O)C1=C(C=CC=C1)C | C12H14O3
